US06960575B2
(2S)-2-{(3RS)-3-Isopropyl-2-oxo-4-methoxyacetyl-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-1-oxo-1-(piperazin-1-yl)-3-phenylpropane hydrochloride (Compound No. 20-1)
A 4 N hydrogen chloride/ethyl acetate solution (0.24 ml) is added to a solution of (2S)-1-(4-tert-butoxycarbonylpiperazin-1-yl)-2-{(3RS)-3-isopropyl-4-methoxyacetyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-1-oxo-3-phenylpropane (190 mg, Compound No. 1-55) in ethyl acetate (3 ml), and the mixture is stirred for one hour. The reaction mixture is concentrated under reduced pressure to give the titled compound (146 mg).

reactant | hydrogen chloride ethyl acetate | 4 N, 0.24 ml | Cl.C(C)(=O)OCC
reactant | (2S)-1-(4-tert-butoxycarbonylpiperazin-1-yl)-2-{(3RS)-3-isopropyl-4-methoxyacetyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-1-oxo-3-phenylpropane | 190 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C([C@H](CC1=CC=CC=C1)NC(=O)CN1C(C(N(C=C1C1=CC=CC=C1)C(COC)=O)C(C)C)=O)=O | C36H47N5O7
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
product | (2S)-2-{(3RS)-3-Isopropyl-2-oxo-4-methoxyacetyl-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-1-oxo-1-(piperazin-1-yl)-3-phenylpropane hydrochloride | 146 mg | Cl.C(C)(C)C1C(N(C(=CN1C(COC)=O)C1=CC=CC=C1)CC(=O)N[C@H](C(N1CCNCC1)=O)CC1=CC=CC=C1)=O | InChI=1S/C31H39N5O5.ClH/c1-22(2)29-31(40)35(26(24-12-8-5-9-13-24)19-36(29)28(38)21-41-3)20-27(37)33-25(18-23-10-6-4-7-11-23)30(39)34-16-14-32-15-17-34;/h4-13,19,22,25,29,32H,14-18,20-21H2,1-3H3,(H,33,37);1H/t25-,29?;/m0./s1
